US07723367B2
2-(2-Chloro-pyridin-3-yloxy)-5-fluoro-benzonitrile
2,5-Difluoro-benzonitrile was reacted with 2-chloropyridin-3-ol according to the method of Example 78A to provide the title compound. MS (DCI/NH3) m/z 249 (M)+, 251 (M+2)+.

reactant | 2,5-Difluoro-benzonitrile | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | 2-chloropyridin-3-ol | ClC1=NC=CC=C1O | C5H4ClNO
product | 2-(2-Chloro-pyridin-3-yloxy)-5-fluoro-benzonitrile | ClC1=NC=CC=C1OC1=C(C#N)C=C(C=C1)F | C12H6ClFN2O
